US07067517B2
4-(2-Chloro-6-fluoro-benzyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The hydrochloride of the title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(2-chloro-6-fluorobenzyl)piperazine. White crystals, m.p. 204–205° C. (from ethanol); HPLC-MS m/z=510 (M+H); IR (KBr): ν 1726 (C═O) cm−1;

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(2-chloro-6-fluorobenzyl)piperazine | ClC1=C(CN2CCNCC2)C(=CC=C1)F | C11H14ClFN2
reactant | KBr | [K+].[Br-]
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-Chloro-6-fluoro-benzyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1=C(C=CC=C1F)Cl)(F)F | C24H20ClF4N3O3
